US08008317B2
A mixture of tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate (10.1 g, 41.5 mmol) and 2-cyanopyrimidine (4.36 g, 41.5 mmol) in 1-butanol (20 mL) was heated to reflux for 48 hours. The mixture was concentrated, suspended in ether, and filtered to give tert-butyl 4-(5-pyrimidin-2-yl-1H-1,2,4-triazol-3-yl)piperidine-1-carboxylate as a solid. MS (M+H+): 331.2 observed; 1H-NMR (400 MHz, CD3OD): δ 8.92 (d, J=4.0 Hz, 2H), 7.52 (t, J=4.0 Hz, 1H), 4.18-4.15 (m, 2H), 3.14-3.08 (m, 1H), 2.98 (br.s, 2H), 2.07-2.01 (m, 2H), 1.85-1.77 (m, 2H), 1.48 (s, 9H).

reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | 41.5 mmol, 10.1 g | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | 2-cyanopyrimidine | 41.5 mmol, 4.36 g | C(#N)C1=NC=CC=N1 | C5H3N3
solvent | 1-butanol | 20 mL | C(CCC)O | C4H10O
product | tert-butyl 4-(5-pyrimidin-2-yl-1H-1,2,4-triazol-3-yl)piperidine-1-carboxylate | N1=C(N=CC=C1)C1=NC(=NN1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N6O2
